US03950432
EXAMPLE I -- Preparation of 2,2-Di-(t-Octylperoxy) Propane
To a jacketed reactor was charged 7.0g. (0.12 mole) of acetone, 39.2g. (0.24 mole) of 1,1,3,3-tetramethylbutyl hydroperoxide (89.7% assay) and 120 ml. of pentane. To the vigorously stirred solution at 0°C was added 16g. of 77% sulfuric acid over a period of 30 minutes and the reaction mixture was allowed to stir at 0°C for 4 hours. The pentane layer was then separated, washed with water, then aqueous 10% KOH solution and finally with water to neutral and was dried over anhyd. MgSO4. After separation of the desiccant and vacuum stripping, 21.3g. (53.1% of theory, uncorr.) of liquid remained which had an "active oxygen" content of 8.66% (theory, 9.64%). Hence, the assay was 90% and the corrected yield was 47.8%. An infrared spectrum of the product showed no O--H or C=O bands but showed a strong OO band at 860 cm-1.

reactant | acetone | 0.12 mole | CC(=O)C | C3H6O
reactant | 1,1,3,3-tetramethylbutyl hydroperoxide | 0.24 mole | CC(CC(C)(C)C)(C)OO | C8H18O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | pentane | CCCCC | C5H12
product | 2,2-Di-(t-Octylperoxy) Propane | yield was 47.8% | C(C)(C)(CC(C)(C)C)OOC(C)(C)OOC(C)(C)CC(C)(C)C | C19H40O4
